US05283230
Preparation of 5-(4-Methyl-1,3-dioxolan2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid
A solution of 5-formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid, 5-(dimethyl acetal) (0.65 g, 0.00194 mol), 1,2-propanediol (0.65 g, 0.0085 mol) and a catalytic amount of p-toluenesulfonic acid in toluene is heated at reflux temperature for 2 hours. The reaction mixture is cooled to room temperature, concentrated in vacuo and the residue is dissolved in methylene chloride. The methylene chloride solution is washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a solid. The solid is chromatographed using silica gel and a gradient elution of 100% methylene chloride to 5% methanol in methylene chloride to yield the title compound as a yellow solid (0.5 g, 74%), mp 50°-62° C., identified by IR and NMR spectral analyses.

reactant | 5-formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | C(=O)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C14H15N3O4
reactant | 1,2-propanediol | 0.0085 mol, 0.65 g | C(C(C)O)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methyl-1,3-dioxolan2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | 0.5 g, 74% | CC1OC(OC1)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C17H21N3O5
